US04113722
(b) 11β,21-bis-(Acetyloxy)-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one
A solution of 11β,21-bis(acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione (3.0g) in dry dimethylformamide (20 ml) containing bis-trimethylsilyltrifluoroacetamide (6.0 ml) and trimethylchlorosilane (60 μ1) is heated in a pressure vial in a bath at 115°-120° C. for 12 hours. The mixture is cooled, poured into an excess of saturated sodium bicarbonate solution and extracted with dichloromethane. The dichloromethane solution is washed with cold water, dried, evaporated and the residue crystallized from ethyl acetate-hexane to afford 1.22 g of the title compound as a solid which is characterized by its nmr spectrum.

reactant | 11β,21-bis(acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione | 3.0g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(COC(C)=O)=O)[C@]2(C1)C)=O)C)F | C25H29FO6
reactant | bis-trimethylsilyltrifluoroacetamide | 6.0 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 11β,21-bis-(Acetyloxy)-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one | 1.22 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(=COC(C)=O)O[Si](C)(C)C)[C@]2(C1)C)=O)C)F | C28H37FO6Si
